US07863298B2
A solution of ethyl 4-bromobenzoate (1.6 mL, 10 mmol) in anhyd THF (50 mL) was chilled to 0° C. and then charged dropwise with a 3.0 M solution of ethylmagnesium bromide in Et2O (7.0 mL, 21 mmol). After 15 min, the reaction mixture was removed from the ice-bath and stirred at ambient temperature. After 18 h the opaque mixture was quenched with satd ammonium chloride (50 mL) and extracted with Et2O (2×50 mL). The combined extracts were washed with brine, dried (anhyd Na2SO4) and concentrated under reduced pressure to give 3-(4-bromophenyl)-pentan-3-ol (2.45 g, quant) as a colorless liquid, which was used without purification in the next step: 1H-NMR (CDCl3) δ 7.46 (2H, d, J=8.3), 7.26 (2.3H, d, J=8.3), 1.78-1.86 (4H, overlapping quartets, J=7), 0.76 (6H, t, J=7.3).

reactant | ethyl 4-bromobenzoate | 10 mmol, 1.6 mL | BrC1=CC=C(C(=O)OCC)C=C1 | C9H9BrO2
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | Et2O | 21 mmol, 7.0 mL | CCOCC | C4H10O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-(4-bromophenyl)-pentan-3-ol | 2.45 g | BrC1=CC=C(C=C1)C(CC)(CC)O | C11H15BrO
